US09388161B2
Step 5. methyl (2S)-5-(4-fluorophenoxy)-2-methyl-6-(1-(2-methylazetidin-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate
A 50-mL round-bottom flask was charged with (2S)-methyl 6-(1-(1-benzhydryl-2-methylazetidin-3-yl)-1H-pyrazol-4-yl)-5-(4-fluorophenoxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.020 g, 0.03 mmol), 1,2-dichloroethane (5 mL) and 1-chloroethyl chloroformate (1 mL), and the resulting solution stirred for 3 h at 80° C. The reaction mixture was cooled to room temperature and then diluted with ethyl acetate (20 mL). The organic phase was separated and washed with water (10 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting 25% ethyl acetate-petroleum ether). The product was further purified by preparative-HPLC with the following conditions (Waters I): Column, Xbridge RP C18, 19×150 mm, 5 um; mobile phase, water (0.05% ammonium bicarbonate) and acetonitrile (20% to 80% acetonitrile in 10 min; flow rate: 20 mL/min); Detector, UV254&220. This afforded methyl (2S)-5-(4-fluorophenoxy)-2-methyl-6-(1-(2-methylazetidin-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate (0.0021 g, 14%) as a white solid. 1H NMR (300 MHz, CD3OD) δ ppm 0.75 (d, J=6.40 Hz, 3H), 0.85-0.97 (m, 1H), 1.10-1.18 (m, 3H), 1.29-1.39 (m, 3H), 1.52-1.65 (m, 1H), 1.99-2.25 (m, 2H), 2.41-2.75 (m, 2H), 3.82 (s, 3H), 4.05-4.17 (m, 2H), 4.26-4.35 (m, 1H), 4.62-4.73 (m, 1H), 5.16-5.23 (m, 1H), 6.73-6.81 (m, 2H), 6.93-6.99 (m, 2H), 7.51-7.62 (m, 2H), 7.85 (s, 1H), 8.05 (s, 1H). MS (ESI, pos. ion) m/z 451 [M+H]+.

reactant | (2S)-methyl 6-(1-(1-benzhydryl-2-methylazetidin-3-yl)-1H-pyrazol-4-yl)-5-(4-fluorophenoxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.03 mmol, 0.020 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(C(C1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1=CC=C(C=C1)F)C | C38H37FN4O3
reactant | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
reactant | 1-chloroethyl chloroformate | 1 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | methyl (2S)-5-(4-fluorophenoxy)-2-methyl-6-(1-(2-methylazetidin-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | FC1=CC=C(OC2=C3CC[C@@H](N(C3=CC=C2C=2C=NN(C2)C2C(NC2)C)C(=O)OC)C)C=C1 | C25H27FN4O3
